US05990105
0.22 g (0.00055 mol) of N-[3-[2-(phenylsulphonyl)-diazenyl]-5-bromophenyl]-N-methylacetamide was dissolved in 15 ml of dimethyl sulphoxide, treated with 0.185 g (0.000825 mol) of 4-nitrothiophenol potassium salt and stirred at 40° C. for 18 hrs. The reaction mixture was poured into 300 ml of water, extracted with diethyl ether, the organic phase was washed with water and sat. sodium chloride solution, dried over MgSO4, filtered and the filtrate was freed from solvent. The residue was chromatographed on silica gel with 1% MeOH in dichloromethane. There was obtained 0.217 g (100%) of N-[3-bromo-5-(4-nitrophenylsulphanyl)-phenyl]-N-methylacetamide as a yellow oil. MS (EI): me/e=382, 380 (C15H13BrN2O3S+).

reactant | N-[3-[2-(phenylsulphonyl)-diazenyl]-5-bromophenyl]-N-methylacetamide | 0.00055 mol, 0.22 g | C1(=CC=CC=C1)S(=O)(=O)N=NC=1C=C(C=C(C1)Br)N(C(C)=O)C | C15H14BrN3O3S
reactant | 4-nitrothiophenol potassium salt | 0.000825 mol, 0.185 g | [K].[N+](=O)([O-])C1=CC=C(C=C1)S
reactant | water | 300 ml | O | H2O
solvent | dimethyl sulphoxide | 15 ml | CS(=O)C | C2H6OS
product | N-[3-bromo-5-(4-nitrophenylsulphanyl)-phenyl]-N-methylacetamide | 0.217 g, 100% | BrC=1C=C(C=C(C1)SC1=CC=C(C=C1)[N+](=O)[O-])N(C(C)=O)C | C15H13BrN2O3S
